US09371319B2
N-(4-fluorophenyl)-1-(methylsulfonyl)-2-(1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridin-6-amine
Aqueous sodium hydroxide (127 μL, 1 M, 0.127 mmol) was added to a solution of tert-butyl 4-(6-(4-fluorophenylamino)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridin-2-yl)-1H-pyrazole-1-carboxylate (Preparation 53, 20 mg, 0.042 mmol) (mixed with some tert-butyl 4-(6-chloro-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridin-2-yl)-1H-pyrazole-1-carboxylate) in EtOH (339 μL). The reaction mixture was stirred for 4 hours at 40° C. The reaction mixture was filtered on SCX-2 column and was then purified using preparative TLC eluting with DCM/MeOH, 95/5 to afford the title compound as a white solid (7 mg, 20%). 1H NMR (500 MHz, CD3OD): δ 3.02 (s, 3H), 6.73 (d, J=0.8 Hz, 1H), 7.00-7.07 (m, 2H), 7.45-7.49 (m, 2H), 7.51 (t, J=0.8 Hz, 1H), 7.90 (br s, 2H), 8.40 (d, J=0.8 Hz, 1H). ESI-HRMS Found 372.0936, calculated for C17H15FN5O2S [M+H]+: 372.0925. MPS1 IC50 (uM): 6.43

reactant | sodium hydroxide | 0.127 mmol, 1 M, 127 μL | [OH-].[Na+]
reactant | tert-butyl 4-(6-(4-fluorophenylamino)-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridin-2-yl)-1H-pyrazole-1-carboxylate | 0.042 mmol, 20 mg | FC1=CC=C(C=C1)NC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C=2C=NN(C2)C(=O)OC(C)(C)C | C22H22FN5O4S
reactant | tert-butyl 4-(6-chloro-1-(methylsulfonyl)-1H-pyrrolo[3,2-c]pyridin-2-yl)-1H-pyrazole-1-carboxylate | ClC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C=2C=NN(C2)C(=O)OC(C)(C)C | C16H17ClN4O4S
solvent | EtOH | 339 μL | CCO | C2H6O
product | N-(4-fluorophenyl)-1-(methylsulfonyl)-2-(1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridin-6-amine | 7 mg, 20% | FC1=CC=C(C=C1)NC1=CC2=C(C=N1)C=C(N2S(=O)(=O)C)C=2C=NNC2 | C17H14FN5O2S
